US20010027196A1
2-Amino-4-furan-2-yl-6-phenethylamino-pyrimidine-5-carbonitrile
From 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile and phenylethylamine in ethanol. ES-MS rn/e (%): 306 (M+H+, 100).

reactant | 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)SC | C10H8N4OS
reactant | phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-furan-2-yl-6-phenethylamino-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCCC1=CC=CC=C1 | C17H15N5O
